### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Transvection): base change of transvections

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
The base change of a transvection of a module.

---

- [x] depends on: #31162 
- [x] depends on: #31240

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean [hunk 1]
```diff
@@ -124,6 +124,11 @@ theorem linearMapLeftRightHom_apply
     linearMapLeftRightHom j β f (α m) = β (f m) := by
   simp [linearMapLeftRightHom_apply, IsBaseChange.equiv_symm_apply]
 
+theorem linearMapLeftRightHom_comp
```
Comment (ocfnash) [inline Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean]:
```suggestion
@[simp] theorem linearMapLeftRightHom_comp
```

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean [hunk 2]
```diff
@@ -678,16 +670,24 @@ lemma baseChange_pow (f : Module.End R M) (n : ℕ) :
...
-@[simp]
-theorem _root_.LinearEquiv.coe_baseChange (e : M ≃ₗ[R] N) :
-    (e.baseChange R A M N : (A ⊗[R] M →ₗ[A] A ⊗[R] N)) = LinearMap.baseChange A e :=
+/-- `baseChange A e` for `e : M ≃ₗ[R] N` is the `A`-linear map `A ⊗[R] M ≃ₗ[A] A ⊗[R] N`. -/
+def _root_.LinearEquiv.baseChange (e : M ≃ₗ[R] N) : A ⊗[R] M ≃ₗ[A] A ⊗[R] N :=
+  AlgebraTensorModule.congr (.refl _ _) e
+
+theorem _root_.LinearEquiv.coe_baseChange (f : M ≃ₗ[R] N) :
+    (f.baseChange R A M N) = f.toLinearMap.baseChange A :=
+   rfl
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/TensorProduct/Tower.lean:680]: I note that aside aside from grouping lemmas about `LinearEquiv`s together, the material change is that you're dropping `simp` from `LinearEquiv.coe_baseChange`.

I'm a bit dubious about dropping the `simp` attribute. What is the motivation?

File: Mathlib/LinearAlgebra/Charpoly/BaseChange.lean [hunk 3]
```diff
@@ -49,6 +49,7 @@ lemma LinearMap.det_baseChange :
 lemma LinearEquiv.det_baseChange (f : M ≃ₗ[R] M) :
     LinearEquiv.det (f.baseChange R A _ _) = (LinearEquiv.det f).map (algebraMap R A) := by
   ext
-  simp [LinearMap.det_baseChange]
+  simp only [coe_det, Units.coe_map, MonoidHom.coe_coe]
+  apply LinearMap.det_baseChange
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Charpoly/BaseChange.lean]: I slightly prefer:
```suggestion
  simp [LinearMap.det_baseChange, LinearEquiv.coe_baseChange]
```
since it leaves a few breadcrumbs about lemmas one might consider tagging with `simp`

File: Mathlib/LinearAlgebra/Transvection.lean [hunk 4]
```diff
@@ -143,3 +144,40 @@ theorem symm_eq' {f : Module.Dual R V} {v : V}
...
+theorem baseChange (f : Module.Dual R V) (v : V) :
+    (transvection f v).baseChange A = transvection (f.baseChange A) (1 ⊗ₜ[R] v) := by
+  ext; simp [transvection, TensorProduct.tmul_add]
+
+theorem _root_.LinearEquiv.transvection.baseChange
+    {f : Module.Dual R V} {v : V} (h : f v = 0)
+    (hA : f.baseChange A (1 ⊗ₜ[R] v) = 0 := by simp [Algebra.algebraMap_eq_smul_one]) :
+    (LinearEquiv.transvection h).baseChange R A V V = LinearEquiv.transvection hA := by
+  simp [← toLinearMap_inj, coe_baseChange,
+    LinearEquiv.transvection.coe_toLinearMap, LinearMap.transvection.baseChange]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Transvection.lean]: The `LinearEquiv` namespace will be picked up automatically so this can be just:
```suggestion
  simp [← toLinearMap_inj, transvection.coe_toLinearMap, transvection.baseChange, coe_baseChange]
```

File: Mathlib/LinearAlgebra/Transvection.lean [hunk 5]
```diff
@@ -143,3 +144,40 @@ theorem symm_eq' {f : Module.Dual R V} {v : V}
...
+
+open IsBaseChange
+
+variable {W : Type*} [AddCommMonoid W] [Module R W] [Module A W]
+  [IsScalarTower R A W] {ε : V →ₗ[R] W} (ibc : IsBaseChange A ε)
+
+theorem _root_.IsBaseChange.transvection (f : Module.Dual R V) (v : V) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Transvection.lean:172]:
```suggestion
@[simp]
theorem _root_.IsBaseChange.transvection (f : Module.Dual R V) (v : V) :
```

**Review by ocfnash — APPROVED** [review]
If you agree to keep the `simp` attribute on `LinearEquiv.coe_baseChange` then feel free to merge.

bors d+

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:680]: I didn't intend to drop it; it probably got dropped during the merge process.

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TensorProduct/IsBaseChangeHom.lean]: I remember having added the simp tag at this place too.

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:680]: Since baseChange_sub and baseChange_neg had `simp` tags, I added some from `baseChange_pow` and `baseChange_zpow` as well.
